US06008213
d) 2-[(2-Aminoethyl)amino]pyridine dihydrochloride
4N HCl in dioxane (3.2 mL) was added in a stream to a solution of 2-[[2-(Boc-amino)ethyl]amino]pyridine (148.4 mg, 0.63 mmole) in anhydrous CH2Cl2 (3.2 mL) at 0° C., then the reaction was warmed to RT. After 2 hr, the mixture was suction filtered to collect the precipitated solid, which was washed with anhydrous Et2O and dried to afford the title compound (132.8 mg, quantitative) as a yellow solid: 1H NMR (400, CD3OD) δ 7.99-8.07 (m, 1 H), 7.92-7.98 (m, 1 H), 7.19 (d, J=9.1 Hz, 1 H), 6.98-7.04 (m, 1 H) 3.76 (t, J=6.2 Hz, 2 H), 3.27 (t, J=6.2 Hz, 2 H, partially obscured by residual solvent signal); MS (ES) m/e 138 (M+H)+.

reactant | HCl | 4N | Cl | ClH
reactant | 2-[[2-(Boc-amino)ethyl]amino]pyridine | 0.63 mmole, 148.4 mg | C(=O)(OC(C)(C)C)NCCNC1=NC=CC=C1 | C12H19N3O2
solvent | dioxane | 3.2 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 3.2 mL | C(Cl)Cl | CH2Cl2
product | 2-[(2-Aminoethyl)amino]pyridine dihydrochloride | 132.8 mg | Cl.Cl.NCCNC1=NC=CC=C1 | InChI=1S/C7H11N3.2ClH/c8-4-6-10-7-3-1-2-5-9-7;;/h1-3,5H,4,6,8H2,(H,9,10);2*1H
